US05240925
a. Preparation of 2-(2,4-Dichlorophenyl)-3-(1-methylpiperidin-3-yl)propionitrile
This intermediate (7.6 g.) was prepared using the procedure described in Example 14a except using 10 g. (0.054 mole) of 2,4-dichlorobenzyl cyanide, 10 g. (0.054 mole) of 3-chloromethyl-1-methylpiperidine hydrochloride, 11 g. (0.135 mole) of aqueous 50% sodium hydroxide, and 100 ml. of DMSO to yield an oil boiling 160°-165° C. at 5 mm of Hg.

reactant | 2,4-dichlorobenzyl cyanide | 0.054 mole | ClC1=C(CC#N)C=CC(=C1)Cl | C8H5Cl2N
reactant | 3-chloromethyl-1-methylpiperidine hydrochloride | 0.054 mole | Cl.ClCC1CN(CCC1)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2,4-Dichlorophenyl)-3-(1-methylpiperidin-3-yl)propionitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)CC1CN(CCC1)C | C15H18Cl2N2
